US08530493B2
To a stirred solution of (+/−)-3-(5-ethoxy-1H-indol-3-yl)-2-methyl-2-nitro-propionic acid methyl ester (5.3 g, 17.3 mmol) in dry methanol (50 ml) Raney nickel is added and the mixture is stirred at room temperature under H2 at atmospheric pressure overnight. The reaction mixture is filtered through a pad of Celite and the solid is washed with methanol. The filtrate is concentrated and the residue is purified by column chromatography (dichloromethane-methanol, 95:5) to give (+/−)-2-amino-3-(5-ethoxy-1H-indol-3-yl)-2-methyl-propionic acid methyl ester (4.2 g, 90%) as a white crystals. M.p. 165-166° C. (from ethyl acetate-hexane).

reactant | (+/−)-3-(5-ethoxy-1H-indol-3-yl)-2-methyl-2-nitro-propionic acid methyl ester | 17.3 mmol, 5.3 g | COC(C(CC1=CNC2=CC=C(C=C12)OCC)([N+](=O)[O-])C)=O | C15H18N2O5
solvent | methanol | 50 ml | CO | CH4O
product | (+/−)-2-amino-3-(5-ethoxy-1H-indol-3-yl)-2-methyl-propionic acid methyl ester | 4.2 g, 90% | COC(C(CC1=CNC2=CC=C(C=C12)OCC)(C)N)=O | C15H20N2O3
